US07378410B2
To a stirred solution of ((3S,6R)-6-hydroxy-1-methyl-2-oxo-azepan-3-yl)-carbamic acid tert-butyl ester (0.70 g, 2.6 mmol) in THF (5 mL) cooled to −78° C. is added NaN(Si(CH3)3)2 (2.8 mL 1M THF, 2.8 mmol). After 10 min trifluoro-methanesulfonic acid 6-azido-hexyl ester (0.76 g, 3.1 mmol) is added neat and stirred for 10 min at −78° C. then warmed and stirred at room temperature for 1 h. NaHCO3 (5 mL 1M H2O) is added and the solution is partitioned with H2O/EtOAc, the EtOAc extract is dried with Na2SO4 and evaporated to an oil. The oil is adsorbed on silica and chromatographed (20% EtOAc/CH2Cl2) to give 0.32 g (32%) of [(3S,6R)-6-(6-azido-hexyloxy)-1-methyl-2-oxo-azepan-3-yl]-carbamic acid tert-butyl ester as an oil. 1H NMR (CDCl3) δ 1.34 (s, 9H), 1.24-2.1 (m, 12H), 2.95 (s, 3H), 3.1-3.35 (m, 6H), 3.44 (m, 1H), 3.55 (d, 1H), 4.2 (m, 1H).

reactant | ((3S,6R)-6-hydroxy-1-methyl-2-oxo-azepan-3-yl)-carbamic acid tert-butyl ester | 2.6 mmol, 0.70 g | C(C)(C)(C)OC(N[C@@H]1C(N(C[C@@H](CC1)O)C)=O)=O | C12H22N2O4
reactant | trifluoro-methanesulfonic acid 6-azido-hexyl ester | 3.1 mmol, 0.76 g | N(=[N+]=[N-])CCCCCCOS(=O)(=O)C(F)(F)F | C7H12F3N3O3S
reactant | NaHCO3 | 1M, 5 mL | C(=O)(O)[O-].[Na+]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | [(3S,6R)-6-(6-azido-hexyloxy)-1-methyl-2-oxo-azepan-3-yl]-carbamic acid tert-butyl ester | 0.32 g, 32% | C(C)(C)(C)OC(N[C@@H]1C(N(C[C@@H](CC1)OCCCCCCN=[N+]=[N-])C)=O)=O | C18H33N5O4
